US04032573
In the same manner as in Example 1 but replacing 2-acetyl-6-methylaniline and bromacetyl bromide by 2-methyl-6-propionylaniline and 3-bromopropionyl chloride, there was obtained 3-bromo-2'-methyl-6'-propionylpropionanilide.

reactant | bromacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-methyl-6-propionylaniline | CC1=C(N)C(=CC=C1)C(CC)=O | C10H13NO
reactant | 3-bromopropionyl chloride | BrCCC(=O)Cl | C3H4BrClO
product | 3-bromo-2'-methyl-6'-propionylpropionanilide | BrCCC(=O)NC1=C(C=CC=C1C(CC)=O)C | C13H16BrNO2
